US07939527B2
Intermediate 19: [4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]methanol
To a suspension of 2-chloro[1,3]thiazolo[4,5-b]pyridine hydrochloride (1.0 equiv.) in CH3CN (0.25 M), was added K2CO3 (powder, 325 mesh; 2.1 equiv.). The mixture was stirred at 50° C. under N2 for 3 h prior to the addition of 4-hydroxymethyl-phenol (1.0 equiv.). The reaction mixture was heated at reflux for 3 h and cooled to rt. Some product precipitated out from the reaction solution and was dissolved by adding CH2Cl2. The insoluble inorganic salt was then filtered off and washed with CH2Cl2. The filtrate solution was concentrated to give the title compound (99%), which was used without further purification. MS (ESI): mass calcd. for C13H10N2O2S, 258.1; m/z found, 258.9 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.56 (ddd, J=4.9, 1.7, 0.4, 1H), 8.02 (ddd, J=7.9, 1.7, 0.4, 1H), 7.48-7.38 (m, 4H), 7.21 (ddd, J=7.9, 4.8, 0.4, 1H), 4.74 (s, 2H).

reactant | 2-chloro[1,3]thiazolo[4,5-b]pyridine hydrochloride | 1.0 equiv. | Cl.ClC=1SC=2C(=NC=CC2)N1
reactant | K2CO3 | 2.1 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-hydroxymethyl-phenol | 1.0 equiv. | OCC1=CC=C(C=C1)O | C7H8O2
solvent | CH3CN | 0.25 M | CC#N | C2H3N
product | [4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]methanol | 99% | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=C2)CO | C13H10N2O2S
